* INA185A1
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: INA185A1
* Date: 08MAR2019
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.3.200.353 SF-TI
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SBOS378
*
* Model Version: Final 1.0
*
*****************************************************************************
*
* Updates:
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* <Please include features that are modeled, not modeled, and specific model usage notes if any>
* 1. The following features have been modeled for 5V operation
*      a. VOS, IIBN, IIBP, IQ versus VICM
*      b. Gain, Noise, CMRR, Zout versus frequency
*      c. Bandwidth 
*      d. Slew rate is slightly less than the published value
*      e. Vout versus Iout
* 2. Temperature effects are not modeled
*
*****************************************************************************
.SUBCKT INA185A1 INP INN OUT REF VCC GND
X_U41         INPUTP_GBW INPUTN_GBW INPUT_TF EN VCC GND GNDF gbw_slew_outlimits_INA185A1
X_U18         INP GNDF VCC GND VICM GNDF IIBP_INA185A1
C_C1         VEE1 VCC1  1u  TC=0,0 
X_U37         0 N868314 vnse_INA185A1
X_U101         VCC GND INPUT_VOUTVSIOUT INPUT_ZOUT VIMON EN GNDF
+  VOUTvsIOUT_TABLE_SHDN_INA185A1 
E_E2         N840691 0 GND 0 -1
R_R16         GNDF INP  1e9 TC=0,0 
E_E12         INN_BUF_OUT GNDF N839661 GNDF 1
R_R30         N999978 N1000352  1m TC=0,0 
X_U38         VCC GND INP_PSRR_IN INP_PSRR_OUT GNDF PSRR_INA185A1 
E_E11         INP_BUF_OUT GNDF INP GNDF 1
X_U31         INPUT_VIMON OUT VIMON GNDF AMETER_INA185A1 
E_E15         N858796 0 N868314 N868380 1e8
R_R28         N868380 N858796  0.60 TC=0,0 
D_D2         IN_COMP N1000352 Dideal 
C_U100_C3         GNDF U100_N01480  53.05p  TC=0,0 
X_U100_U1         U100_N01897 GNDF GNDF U100_N01973 G_wlim_INA185A1 
R_U100_R15         GNDF INPUT_VIMON  3k TC=0,0 
R_U100_R13         GNDF U100_N01973  1 TC=0,0 
R_U100_R1         GNDF U100_N00144  6666.667 TC=0,0 
G_U100_G6         U100_N00138 GNDF INPUT_ZOUT INPUT_VIMON -94043.9
R_U100_R2         U100_N00138 U100_N00144  10k TC=0,0 
R_U100_R3         GNDF U100_N00138  1 TC=0,0 
C_U100_C2         GNDF U100_N01072  53.05p  TC=0,0 
G_U100_G4         U100_N01873 GNDF U100_N01400 GNDF -1
G_U100_G3         U100_N01376 GNDF U100_N00528 GNDF -1
C_U100_C1         U100_N00138 U100_N00144  15.9155n  TC=0,0 
R_U100_R10         GNDF U100_N01897  10.01 TC=0,0 
R_U100_R7         U100_N01480 U100_N01400  10k TC=0,0 
R_U100_R11         U100_N01873 U100_N01897  10k TC=0,0 
R_U100_R8         U100_N01376 U100_N01400  466190 TC=0,0 
R_U100_R12         GNDF U100_N01873  1 TC=0,0 
R_U100_R9         GNDF U100_N01376  1 TC=0,0 
G_U100_G2         U100_N00488 GNDF U100_N00144 GNDF -2.5
C_U100_C4         U100_N01873 U100_N01897  0.159155p  TC=0,0 
R_U100_R4         U100_N01072 U100_N00528  10k TC=0,0 
R_U100_R5         U100_N00488 U100_N00528  466190 TC=0,0 
R_U100_R14         U100_N01973 INPUT_VIMON  3e4 TC=0,0 
R_U100_R6         GNDF U100_N00488  1 TC=0,0 
C_C2         VCC1 0  1u  TC=0,0 
E_E16         INPUTP_GBW INPUT_OUTP N858796 0 0.4
R_R20         N840573 VCC1  1 TC=0,0 
X_U44         OUT_COMP IN_COMP COMP_REF 0 COMPARATOR_INA185A1 
E_E18         N999978 0 OUT_CNTRL 0 10
R_R18         INPUT_ZOUT INPUTN_GBW  500k TC=0,0 
C_C5         N868380 N858796  {2.5*31.8n}  TC=0,0 
C_C6         N859753 N868380  {2.5*1697n}  TC=0,0 
X_U17         INN GNDF VCC GND VICM GNDF IIBN_INA185A1
R_R29         0 N859753  0.1875 TC=0,0 
X_U12         INPUT_TF INPUT_VOUTVSIOUT VCC GND EN GNDF TF_INA185A1
R_R31         0 OUT_COMP  1k TC=0,0 
C_C3         VEE1 0  1u  TC=0,0 
V_V10         COMP_REF 0 5Vdc
R_R3         INP_PSRR_OUT INPUT_OUTP  25k TC=0,0 
E_E3         GNDF 0 VCC1 VEE1 0.5
V_V8         INN N839661 -50uVdc
C_C7         0 IN_COMP  1p  TC=0,0 
X_U43         VCC GND VICM EN VIMON GNDF IQ_VICM_INA185A1 
R_R25         N999978 IN_COMP  1000 TC=0,0 
R_R4         INN_CMRR INPUTN_GBW  25k TC=0,0 
R_R21         N840691 VEE1  1 TC=0,0 
E_E14         INN_BUF_OUT INN_CMRR VICM GNDF 0
X_U39         OUT_CNTRL VICM VCC GND GNDF CONTROL_INA185A1 
E_E17         EN GNDF OUT_COMP 0 1
R_R26         INPUT_OUTP REF  500k TC=0,0 
X_U102         VICM INP_CMRR INP_PSRR_IN GNDF CMRR_2p_INA185A1 
R_R27         0 N868380  1 TC=0,0 
E_E13         INP_BUF_OUT INP_CMRR VICM GNDF 0
X_U5         VICM INP INN GNDF VICM_INA185A1
R_R17         INN GNDF  1e9 TC=0,0 
E_E1         N840573 0 VCC 0 1
.MODEL Dideal D
.ENDS
*
****************
**            **
****************
.subckt gbw_slew_outlimits_INA185A1  vip  vim  vo shdn vcc vee gndf 
.param aol = 160  
.param gbw = 7.2e6  
.param srp = 2.5e6  
.param srn = 2.5e6 
.param it = 0.001
.param pi = 3.141592
.param ip = {it*max(1,srp/srn)}
.param in = {it*min(-1,-srn/srp)}
.param cc = {it*max(1/srp,1/srn)}
.param fp = {gbw/pwr(10,aol/20)}
.param rc = {1/(2*pi*cc*fp)}
.param gc = {pwr(10,aol/20)/rc}
g1p gndf outg1p value = {max(min(gc*v(shdn,gndf)*v(vip,vim),ip),in)}
g1n outg1n gndf value = {max(min(gc*v(shdn,gndf)*v(vip,vim),ip),in)}
e1out vo gndf value = 
+ {max(min(v(shdn,gndf)*v(outg1p,outg1n),v(vcc,gndf)),v(vee,gndf))}
rg1p outg1p gndf {0.5*rc}
cg1dp outg1p gndf {2*cc} ic=0
rg1n outg1n gndf {0.5*rc}
cg1dn outg1n gndf {2*cc} ic=0
s1  outg1p n1 outg1p n1 sw1
e1 n1 0 value = {v(vcc)-0.1}
S2  OUTG1p N2 OUTG1p N2 SW2
e2 n2 0 value = {v(vee) + 0.1}
S3  OUTG1n N3 OUTG1n N3 SW1
e3 n3 0 value = {v(vcc)-0.1}
s4  outg1n n4 outg1n n4 sw2
e4 n4 0 value = {v(vee) + 0.1}
.model sw1 vswitch
+ ron=0.1
+ roff=1e+009
+ von=0.1
+ voff=0
.model sw2 vswitch
+ ron=0.1
+ roff=1e+009
+ von=-0.1
+ voff=0
.ends
****************
**            **
****************
.subckt vnse_INA185A1 1 2 
.param nlf = {40} 
.param flw = 1f  
.param nvr = {40}
.param glf={pwr(flw,0.25)*nlf/1164}
.param rnv={1.184*pwr(nvr,2)}
i2 0 8 10e-3
d1 7 0 dvn
d2 8 0 dvn
e1 3 6 7 8 {glf}
r1 3 0 1e9
r2 3 0 1e9
r3 3 6 1e9
e2 6 4 5 0 10
r4 5 0 {rnv}
r5 5 0 {rnv}
r6 3 4 1e9
r7 4 0 1e9
e3 1 2 3 4 1
c1 1 0 1e-15
c2 2 0 1e-15
c3 1 2 1e-15
.model dvn d
.ends
****************
**            **
****************
.SUBCKT IIBP_INA185A1 OUT IN VCC VEE INP GNDF
.PARAM VCMBRK = 2.5
.PARAM REQ_VCC_NEZERO = 450k
.PARAM REQ_VCC_EQZERO = 530k
EVCCTEST NVCCTEST 0 VALUE = {SGN(V(VCC,VEE)) - 1 + ABS(SGN(V(VCC,VEE)))}
E1ACT N1SGN 0 VALUE = {SGN(V(INP,GNDF)-VCMBRK) - 1 + ABS(SGN(V(INP,GNDF)-VCMBRK))}
GOUT2 OUT IN VALUE = {V(INP,GNDF)*(1/REQ_VCC_NEZERO 
+ + 0.5*(1-V(NVCCTEST ))/REQ_VCC_EQZERO)
+ + 0.5*(1-V(NVCCTEST ))*(-5u)}
GOUT1 OUT IN VALUE = {0.5*(1+V(N1SGN))*0.5*(1+V(NVCCTEST))*60u}
.ENDS
****************
**            **
****************
.SUBCKT VOUTvsIOUT_TABLE_SHDN_INA185A1  VCC  VEE  VI  VO VIMON SHDN GNDF
EOUTP VHRP GNDF TABLE {V(VIMON,GNDF)} =
+ (0,-0.02)
+ (0.002518,-0.142)
+ (0.004932,-0.2639)
+ (0.007557,-0.4401)
+ (0.009972,-0.6027)
+ (0.012597,-0.7789)
+ (0.014915,-1.1042)
+ (0.017656,-1.5378)
+ (0.019581,-2.5)
EOUTN VHRN GNDF TABLE {V(VIMON,GNDF)} =
+ (-0.051429,2.5)
+ (-0.050046,1.9237)
+ (-0.045009,1.4582)
+ (-0.039876,1.1975)
+ (-0.034956,1.0326)
+ (-0.029931,0.8402)
+ (-0.024907,0.7025)
+ (-0.019988,0.5376)
+ (-0.014859,0.3862)
+ (-0.009837,0.2622)
+ (-0.004918,0.1245)
+ (-0,0.0005)
E1 UL 0 VALUE = {V(VCC,GNDF) + V(VHRP,GNDF)}
E2 LL 0 VALUE = {V(VEE,GNDF) + V(VHRN,GNDF)}
EOUT VO GNDF VALUE = {V(SHDN,GNDF)*LIMIT(V(VI,GNDF),V(LL),V(UL))}
.ENDS
****************
**            **
****************
.SUBCKT PSRR_INA185A1  VDD  VSS  VI  VO  GNDF 
.PARAM PSRR = 100
.PARAM fpsrr = 1300
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*fpsrr)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR} 
E1  VO VI 1 GNDF 1
.ENDS
****************
**            **
****************
.SUBCKT AMETER_INA185A1  VI  VO VIMON GNDF
.PARAM GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON GNDF VALUE = {I(VSENSE)*GAIN}
.ENDS
****************
**            **
****************
.SUBCKT G_wlim_INA185A1 VCP VCN IOUTP IOUTN
.PARAM GAIN = 1e3
.PARAM IPOS = 1.6e3
.PARAM INEG = -1.6e3
G1 IOUTP IOUTN VALUE = {MAX(MIN(GAIN*V(VCP,VCN),IPOS),INEG)}
.ENDS
****************
**            **
****************
.SUBCKT COMPARATOR_INA185A1 OUT IN REF GNDF
.PARAM VOUT_MAX = 1
.PARAM VOUT_MIN = 0
.PARAM GAIN = 1e4
EOUT OUT GNDF VALUE = {MAX(MIN(GAIN*V(IN,REF),VOUT_MAX),VOUT_MIN)}
.ENDS
****************
**            **
****************
.SUBCKT IIBN_INA185A1 OUT IN VCC VEE INN GNDF
.PARAM VCMBRK = 2.5
.PARAM REQ_VCC_NEZERO = 450k
.PARAM REQ_VCC_EQZERO = 530k
EVCCTEST NVCCTEST 0 VALUE = {SGN(V(VCC,VEE)) - 1 + ABS(SGN(V(VCC,VEE)))}
E1ACT N1SGN 0 VALUE = {SGN(V(INN,GNDF)-VCMBRK) - 1 + ABS(SGN(V(INN,GNDF)-VCMBRK))}
GOUT2 OUT IN VALUE = {V(INN,GNDF)*(1/REQ_VCC_NEZERO 
+ + 0.5*(1-V(NVCCTEST ))/REQ_VCC_EQZERO)
+ + 0.5*(1-V(NVCCTEST ))*(-5u)}
GOUT1 OUT IN VALUE = {0.5*(1+V(N1SGN))*0.5*(1+V(NVCCTEST))*60u}
.ENDS
****************
**            **
****************
.SUBCKT TF_INA185A1  VI  VO  VCC VEE SHDN GNDF
.PARAM fz1 = 10G 
.PARAM fz2 = 10G 
.PARAM fz3 = 10G 
.PARAM fz4 = 10G 
.PARAM fz5 = 10G
.PARAM fp1 = 10e6 
.PARAM fp2 = 10G 
.PARAM fp3 = 10G 
.PARAM fp4 = 10G
.PARAM Gm = 1M
.PARAM Ro = {1/Gm}
.PARAM PI = 3.141592
.PARAM gL = 1M
Gp1  GNDF Vp1 VI GNDF {Gm}
Rp1  Vp1 GNDF {Ro}
Cp1  Vp1 GNDF {1/(2*PI*Ro*fp1)} IC = 0
Gp2  GNDF Vp2 Vp1 GNDF {Gm}
Rp2  Vp2 GNDF {Ro}
Cp2  Vp2 GNDF {1/(2*PI*Ro*fp2)} IC = 0
Gp3  GNDF Vp3 Vp2 GNDF {Gm}
Rp3  Vp3 GNDF {Ro}
Cp3  Vp3 GNDF {1/(2*PI*Ro*fp3)} IC = 0
Gp4  GNDF VO Vp3 GNDF {Gm}
Rp4  VO GNDF {Ro}
Cp4  VO GNDF {1/(2*PI*Ro*fp4)} IC = 0
.ENDS
****************
**            **
****************
.SUBCKT IQ_VICM_INA185A1 VCC VEE VICM SHDN VIMON GNDF
.PARAM IQ_3 = 209u
.PARAM IQ_2 = 325u
.PARAM IQ_1 = 375u
.PARAM VICM_1 = -0.2
.PARAM VICM_2 = 2
.PARAM VICM_3 = 5.1
.PARAM m_1 = {-2.25*12.4u}
.PARAM b_1 = 370u
.PARAM m_2 = 0
.PARAM b_2 = 313.3u
.PARAM m_3 = -1.04u
.PARAM b_3 = 208.8u
.PARAM IQ_SHDN = 0.01u
.PARAM Geq = 18.75u
EZ1 NSGNVICM1 0 VALUE = {SGN(V(VICM) - VICM_1) + ABS(SGN(V(VICM) - VICM_1)) - 1}
EZ2 NSGNVICM2 0 VALUE = {SGN(V(VICM) - VICM_2) + ABS(SGN(V(VICM) - VICM_2)) - 1}
EZ3 NSGNVICM3 0 VALUE = {SGN(V(VICM) - VICM_3) + ABS(SGN(V(VICM) - VICM_3)) - 1}
EIQ1 NIQ1 0 VALUE = {m_1*V(VICM)+b_1}
EIQ2 NIQ2 0 VALUE = {m_2*V(VICM)+b_2}
EIQ3 NIQ3 0 VALUE = {m_3*V(VICM)+b_3}
EIQ1_ACT NIQ1_ACT 0 VALUE = {0.5*(1 - V(NSGNVICM2))*V(NIQ1)}
EIQ2_ACT NIQ2_ACT 0 VALUE = {0.5*(1 + V(NSGNVICM2))*0.5*(1 - V(NSGNVICM3))*V(NIQ2)}
EIQ3_ACT NIQ3_ACT 0 VALUE = {0.5*(1 + V(NSGNVICM3))*V(NIQ3)}
GIQ VCC VEE VALUE = {(V(NIQ1_ACT) + V(NIQ2_ACT) + V(NIQ3_ACT))*V(SHDN,GNDF)}
ESGNIOUT NSGNIOUT 0 VALUE = {SGN(V(VIMON,GNDF))}
GOUTP VCC GNDF VALUE = {0.5*(1 + V(NSGNIOUT))*V(VIMON,GNDF)*V(SHDN,GNDF)}
GOUTN GNDF VEE VALUE = {0.5*(1 - V(NSGNIOUT))*V(VIMON,GNDF)*V(SHDN,GNDF)}
.ENDS
****************
**            **
****************
.SUBCKT CONTROL_INA185A1 OUT_CNTRL IN VCC VEE GNDF
.PARAM VCCMAX = 5.6
.PARAM VCCMIN = 2.6
.PARAM VICMMAX = {26.01 - 2.5}
.PARAM VICMMIN = {-0.201 - 2.5} 
EN1 N1 0 VALUE = {SGN(VCCMAX - V(VCC,VEE)) - 1 + ABS(SGN(VCCMAX - V(VCC,VEE)))}
EN2 N2 0 VALUE = {SGN(V(VCC,VEE)-VCCMIN) - 1 + ABS(SGN(V(VCC,VEE)-VCCMIN))}
EVCCMAX NVCCMAX 0 VALUE = {0.5*(1 + V(N1))}
EVCCMIN NVCCMIN 0 VALUE = {0.5*(1 + V(N2))}
EN3 N3 0 VALUE = {SGN(VICMMAX + V(GNDF) - V(IN)) - 1 + ABS(SGN(VICMMAX + V(GNDF)- V(IN)))}
EN4 N4 0 VALUE = {SGN(V(IN)-V(GNDF)-VICMMIN) - 1 + ABS(SGN(V(IN)-V(GNDF)-VICMMIN))}
EVICMMAX NVICMMAX 0 VALUE = {0.5*(1 + V(N3))}
EVICMMIN NVICMMIN 0 VALUE = {0.5*(1 + V(N4))}
EOUT OUT_CNTRL 0 VALUE = {V(NVCCMAX)*V(NVCCMIN)*V(NVICMMAX)*V(NVICMMIN)}
.ENDS
****************
**            **
****************
.SUBCKT CMRR_2p_INA185A1  VICM VI  VO  GNDF 
.PARAM CMRR = 100 
.PARAM fcmrr1 = 33.6k
.PARAM fcmrr2 = 1e6
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR1 = {RCMRR/(2*PI*fcmrr1)}
.PARAM LCMRR2 = {RCMRR/(2*PI*fcmrr2)}
G1  1 GNDF VICM GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR1}
G2  GNDF 3 1 GNDF 1
R2  3 4 {RCMRR}
L2 4 GNDF {LCMRR2}
E2 VI VO 3 GNDF -1
.ENDS
****************
**            **
****************
.SUBCKT VICM_INA185A1 OUT INP INN GNDF
EOUT OUT GNDF VALUE = {0.5*(V(INP,GNDF) + V(INN,GNDF))}
.ENDS
****************
**            **
****************
